US06734200B1
3-(4-(1-((2S)-2,3-Dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5-(S)-(3-methylisothiazol-5-ylaminomethyl)oxazolidin-2-one
Using essentially the technique of Example 20, but starting from 3-(4-(1-(2,2-dimethyl-1,3-dioxolan-4-(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-3-methylisothiazol-5-ylaminomethyl)oxazolidin-2-one (250 mg, 0.39 mM), and using a gradient increasing in polarity from 0 to 20% methanol in dichloromethane for chromatography, gave the desired product (92 mg). NMR (DMSO-d6) δ: 2.16 (s, 3H); 2.29 (m, 1H); 2.37 (m, 1H); 3.42 (t, 2H); 3.47 (m, 1H); 3.55 (m, 1H); 3.73 (m, 1H); 3.76 (dd, 1H); 4.10 (m, 2H); 4.14 (t, 1H); 4.24 (m, 1H); 4.36 (t, 1H); 4.68 (t, 1H); 4.87 (m, 1H); 4.97 (m, 1H); 5.86 (s, 1H); 6.97 (s, 1H); 7.31 (d, 2H); 7.38 (t, 1H). MS (ESP): 495 (MH+) for C22H24F2N4O5S

reactant | 3-(4-(1-(2,2-dimethyl-1,3-dioxolan-4-(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-3-methylisothiazol-5-ylaminomethyl)oxazolidin-2-one | 0.39 mM, 250 mg | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN(C(=O)OC(C)(C)C)C1=CC(=NS1)C)=O)F)C | C30H36F2N4O7S
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-(1-((2S)-2,3-Dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5-(S)-(3-methylisothiazol-5-ylaminomethyl)oxazolidin-2-one | 92 mg | O[C@H](C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC1=CC(=NS1)C)=O)F)CO | C22H24F2N4O5S
